US09351965B2
Preparation of N-(3-(2-fluorobenzyl)-3-methoxycyclohexyl)-3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamide
N-(3-(2-fluorobenzyl)-3-methoxycyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide was stirred in neat TFA at room temperature for 10 minutes, and then Et3SiH (5 equiv.) was added. The reaction mixture was stirred at room temperature for 5 minutes, and then concentrated. The product was obtained and purified by reverse phase HPLC. Two diastereomers obtained.

reactant | N-(3-(2-fluorobenzyl)-3-methoxycyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | FC1=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)OC)C=CC=C1 | C47H43FN4O2
reactant | Et3SiH | 5 equiv. | [SiH](CC)(CC)CC | C6H16Si
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-(2-fluorobenzyl)-3-methoxycyclohexyl)-3-(2-methylpyridin-4-yl)-1H-indazole-5-carboxamide | FC1=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NNC3=CC2)C2=CC(=NC=C2)C)OC)C=CC=C1 | C28H29FN4O2
